US06914062B2
2-(2,4-dimethoxybenzylamino)-4-methylaniline
2,3-Dimethoxybenzylamine (1.05 g) and potassium carbonate (1.52 g) were added to a solution of 3-fluoro-4-nitrotoluene (0.832 g) in 1-methyl-2-pyrrolidinone (5.0 ml), and the mixture was stirred at 120° C. for 4 hours. Then, ether was added to the reaction mixture. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo to give a yellow oil. The yellow oil was dissolved in ethanol (100 ml), and to the solution were added water (50 ml), saturated aqueous ammonium chloride (50 ml) and iron dust (352 g). The mixture was heated under reflux for 3 hours while vigorous stirring. Then insolubles were removed by filtration, and the filtrate was concentrated in vacuo. The residue was dissolved in chloroform, and the organic layer was washed with water and brine and dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 3:1 to 2:1) and then recrystallized by ethyl acetate-hexane to give the title compound (0.980 g).

reactant | 2,3-Dimethoxybenzylamine | 1.05 g | COC1=C(CN)C=CC=C1OC | C9H13NO2
reactant | potassium carbonate | 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluoro-4-nitrotoluene | 0.832 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | 1-methyl-2-pyrrolidinone | 5.0 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | iron | 352 g | [Fe] | Fe
solvent | water | 50 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(2,4-dimethoxybenzylamino)-4-methylaniline | 0.980 g | COC1=C(CNC2=C(N)C=CC(=C2)C)C=CC(=C1)OC | C16H20N2O2
